US04499299
A solution of 6.0 g (36.1 mmoles) of 3-methoxy-4-methylbenzoic acid in 120 ml of anhydrous MeOH was treated with 6 ml of acetyl chloride and stirred at room temperature for 36 hours. The MeOH was evaporated in vacuo followed by addition and evaporation of two 100 ml portion of methanol to give 6.34 g of methyl 3-methoxy-4-methylbenzoate colorless oil. This was carried through steps analogous to those in Example 1, steps b., c. and d.

reactant | 3-methoxy-4-methylbenzoic acid | 36.1 mmoles, 6.0 g | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
reactant | acetyl chloride | 6 ml | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 120 ml | CO | CH4O
product | methyl 3-methoxy-4-methylbenzoate | 6.34 g | COC=1C=C(C(=O)OC)C=CC1C | C10H12O3
